US04016159
21 g of 4-guanidino-phenylacetic acid were added to 200 ml of thionyl chloride that had been cooled to 0° C. After 15 minutes at 0° C, the whole was stirred for 15 minutes at room temperature, the product as precipitated with 500 ml of anhydrous ether, filtered off with suction, washed with anhydrous ether and dried under reduced pressure. 24.7 g of 4-guanidino-phenylacetyl chloride hydrochloride melting at 127° to 130° C were obtained.

reactant | 4-guanidino-phenylacetic acid | 21 g | N(C(=N)N)C1=CC=C(C=C1)CC(=O)O | C9H11N3O2
reactant | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-guanidino-phenylacetyl chloride hydrochloride | 24.7 g | Cl.N(C(=N)N)C1=CC=C(C=C1)CC(=O)Cl | InChI=1S/C9H10ClN3O.ClH/c10-8(14)5-6-1-3-7(4-2-6)13-9(11)12;/h1-4H,5H2,(H4,11,12,13);1H
